.INCLUDE 45nm_HP.pm
.OPTION GMIN=1e-020 ABSTOL=1e-18
.option temp=25
.PARAM Lmin=45n
.PARAM Wmin=45n
.PARAM Ldiff=90n
.param supply = 1.1

* Description of the cell
Mn drain gate source body pmos W={4*Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}
Vs 	source	alim1		0
Vd 	drain	alim	 0
Vg 	gate	alim2		0

Vb 	body	0		supply
Vdd 	alim	0		0
Vdd1 alim1 0 0
* on case
* Vdd2 alim2 0 0
* off case
Vdd2 alim2 0 supply

* Control statements
.CONTROL
let Vddbasic=1.15
*for source
let voltage1=0

while voltage1 le Vddbasic
  alter Vdd1 = voltage1
  let voltage = 0
  while voltage le Vddbasic
    alter Vdd = voltage
    dc TEMP 25 25 25 
    print abs(V(alim)) V(drain) V(gate) V(source) V(body) I(Vd) I(Vg) I(Vs) I(Vb) 
    let voltage = voltage + 0.05
  end
  let voltage1 = voltage1 + 0.05
end
quit
.ENDC
.END